US05204428
A nitrogen line was connected to a two-necked flask (100 ml) provided with a cooling tube so that the air in the flask was replaced with nitrogen gas. 0.02 mole of cyanoethyl vinyl ether, which was distilled at least twice, 0.02 mole of cyanoethyl acrylate, 20 ml of acetone and 2,2'-azobisisobutyronitrile in an amount of 2mol% relative to the total amount of the monomers were then placed in the flask, followed by polymerization at 50° C. for 24 hours. The thus-formed copolymer was then reprecipitated by using methanol to obtain 4 g of an intended cyanoethyl vinyl ether-cyanoethyl acrylate copolymer. The composition ratio (cyanoethyl vinyl ether:cyanoethyl acrylate) of the copolymer was 2:3.

reactant | cyanoethyl vinyl ether | 0.02 mole | C(=C)OCCC#N | C5H7NO
reactant | cyanoethyl acrylate | 0.02 mole | C(C=C)(=O)OCCC#N | C6H7NO2
reactant | 2,2'-azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | cyanoethyl vinyl ether cyanoethyl acrylate | 4 g | C(=C)OCCC#N.C(C=C)(=O)OCCC#N | InChI=1S/C6H7NO2.C5H7NO/c1-2-6(8)9-5-3-4-7;1-2-7-5-3-4-6/h2H,1,3,5H2;2H,1,3,5H2
